US07304081B2
Step 4. 1-(6-azetidin-1-ylpyridin-3-yl)cyclopropanecarbonyl chloride dihydrochloride
To 1-(6-azetidin-1-ylpyridin-3-yl)cyclopropanecarboxylic acid dihydrochloride (61.00 mg, 0.0002095 mol) were added thionyl chloride (1.00 mL, 0.0137 mol) at 0° C. and the resulting solution was stirred at rt for 1 hr. Upon completion, the reaction mixture was azeotroped with toluene (3×) and then used in the next step without further purification.

reactant | 1-(6-azetidin-1-ylpyridin-3-yl)cyclopropanecarboxylic acid dihydrochloride | 0.0002095 mol, 61.00 mg | Cl.Cl.N1(CCC1)C1=CC=C(C=N1)C1(CC1)C(=O)O
reactant | thionyl chloride | 0.0137 mol, 1.00 mL | S(=O)(Cl)Cl | Cl2OS
product | 1-(6-azetidin-1-ylpyridin-3-yl)cyclopropanecarbonyl chloride dihydrochloride | Cl.Cl.N1(CCC1)C1=CC=C(C=N1)C1(CC1)C(=O)Cl | InChI=1S/C12H13ClN2O.2ClH/c13-11(16)12(4-5-12)9-2-3-10(14-8-9)15-6-1-7-15;;/h2-3,8H,1,4-7H2;2*1H
